US06262058B1
In a sulfonation flask, 9.6 g (0.04 mol) of 2-methylsulfanyl-3-propyl-3H-thieno[3.2-d]-pyrimidin-4-one are added to 200 ml of absolute tetrahydrofuran. Subsequently, 4.07 g (0.042 mol) of lithium diisopropylamide, dissolved in 50 ml of absolute tetrahydrofuran, are added dropwise under N2 such that the internal temperature remains constant at about −78° C. The mixture is stirred for 1 hour at −78° C. and then a solution of 8.5 g (0.048 mol) of N-bromosuccinimide in 40 ml of absolute tetrahydrofuran is added dropwise such that the internal temperature remains constant at about −78° C. The condenser is then removed and the mixture is slowly warmed to room temperature. The tetrahydrofuran is removed in a water-jet vacuum and the residue is dissolved in ethyl acetate. The organic phase is washed with water, dried over sodium sulfate and the ethyl acetate is then removed in the water-jet vacuum. The crude product is purified by column chromatography over silica gel (eluant: ethyl acetate/hexane=1:5), giving 3.8 g of 6-bromo-2-methylsulfanyl-3-propyl-3H-thieno[3.2-d]pyrimidin-4-one in the form of a yellow powder having a melting point of 138-141° C.

reactant | 2-methylsulfanyl-3-propyl-3H-thieno[3.2-d]-pyrimidin-4-one | 0.04 mol, 9.6 g | CSC=1N(C(C2=C(N1)C=CS2)=O)CCC | C10H12N2OS2
reactant | lithium diisopropylamide | 0.042 mol, 4.07 g | C(C)(C)[N-]C(C)C.[Li+]
reactant | N-bromosuccinimide | 0.048 mol, 8.5 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 6-bromo-2-methylsulfanyl-3-propyl-3H-thieno[3.2-d]pyrimidin-4-one | 3.8 g | BrC1=CC=2N=C(N(C(C2S1)=O)CCC)SC | C10H11BrN2OS2
